US06716843B2
(S)-N-[5-Amino-6-oxo-(1,3-thiazolidin-3-yl)-hexyl]-N-methyl-methanesulphonamide Hydrochloride
Starting from (S)-N6-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-lysine, 2-nitrobenzenesulphonyl chloride and 1,3-thiazolidine, the expected product is obtained according to the procedure described in Steps A to C of Example 3.

reactant | (S)-N6-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-lysine | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C19H28N2O6
reactant | 2-nitrobenzenesulphonyl chloride | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 1,3-thiazolidine | S1CNCC1 | C3H7NS
product | (S)-N-[5-Amino-6-oxo-(1,3-thiazolidin-3-yl)-hexyl]-N-methyl-methanesulphonamide Hydrochloride | Cl.N[C@@H](CCCCN(S(=O)(=O)C)C)C(=O)N1CSCC1 | InChI=1S/C11H23N3O3S2.ClH/c1-13(19(2,16)17)6-4-3-5-10(12)11(15)14-7-8-18-9-14;/h10H,3-9,12H2,1-2H3;1H/t10-;/m0./s1
